US04239768
In a manner similar to that described in Examples II and III, a solution of 12.0 grams (0.0563 mole) of 2-iminoimidazolidine hydroiodide in 50 milliliters of dry dimethylformamide is added dropwise with cooling and under an atmosphere of nitrogen to a suspension of 447 milligrams (0.0563 mole) of lithium hydride in 50 milliliters of dry dimethylformamide. After completion of the addition the mixture is allowed to warm to room temperature over a period of about half an hour, then cooled to 0°-5° C., and a solution of 7.8 grams (0.0282 mole) of 2,6-dibromophenyl isocyanate in 25 milliliters of dry dimethylformamide is added dropwise over a two hour period while maintaining the cooled temperature range. The mixture is then allowed to warm to room temperature and stirred overnight under nitrogen to obtain the desired N-(2,6-dibromophenyl)-N'-(2-imidazolidinylidene)urea product in the reaction mixture. The product is recovered from the reaction mixture by pouring the mixture into 400 milliliters of ice water, acidifying with 10 percent hydrochloric acid to pH below 3, filtering to remove impurities, saturating the filtrate with solid sodium chloride and basifying with potassium carbonate to a pH of 8-9 to precipate the N-(2,6-dibromophenyl)-N'-(2-imidazolidinylidene)urea product as a white solid, m.p. 185°-190° C. (dec.)

reactant | 2-iminoimidazolidine hydroiodide | 0.0563 mole, 12.0 grams | I.N=C1NCCN1
reactant | lithium hydride | 0.0563 mole, 447 milligrams | [H-].[Li+]
reactant | 2,6-dibromophenyl isocyanate | 0.0282 mole, 7.8 grams | BrC1=C(C(=CC=C1)Br)N=C=O | C7H3Br2NO
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 milliliters | CN(C=O)C | C3H7NO
product | N-(2,6-dibromophenyl)-N'-(2-imidazolidinylidene)urea | BrC1=C(C(=CC=C1)Br)NC(=O)N=C1NCCN1 | C10H10Br2N4O
